US07160889B2
A solution of 7-(2,3-epoxypropoxy)-6-methoxy-3-(pivaloyloxymethyl)-3,4-dihydroquinazolin-4-one (5 g, 13.8 mmol) and N-methylpiperazine (1.7 ml) in chloroform (70 ml) was refluxed for 21 hours. After cooling the mixture was poured onto a column of silica and eluted with methanol/methylene chloride/ethylacetate (5/45/50) followed by (8/42/50) followed by methanol (saturated with ammonia)/ methylene chloride/methanol (5/45/50) followed by (8/42/50). The fractions containing the expected product were combined and the volatiles were removed under vacuum. The solid was triturated with ether, filtered, washed with ether and dried under vacuum to give 7-[2-hydroxy-3-(4-methylpiperazin-1-yl)propoxy]-6-methoxy-3-(pivaloyloxymethyl)-3,4-dihydroquinazolin-4-one (4.8 g, 75%).

reactant | 7-(2,3-epoxypropoxy)-6-methoxy-3-(pivaloyloxymethyl)-3,4-dihydroquinazolin-4-one | 13.8 mmol, 5 g | O1C(COC2=C(C=C3C(N(C=NC3=C2)COC(C(C)(C)C)=O)=O)OC)C1 | C18H22N2O6
reactant | N-methylpiperazine | 1.7 ml | CN1CCNCC1 | C5H12N2
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-[2-hydroxy-3-(4-methylpiperazin-1-yl)propoxy]-6-methoxy-3-(pivaloyloxymethyl)-3,4-dihydroquinazolin-4-one | 4.8 g, 75% | OC(COC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC)CN1CCN(CC1)C | C23H34N4O6
